US05817693
a) Ethyl 3-[tri-(but-1-yl)stannyl)benzoate
Ethyl 3-bromobenzoate (2.0 g, 8.7 mmol), hexabutyl-distannane (5.51 ml, 10.9 mmol), tetrakis(triphenyl-phosphine)palladium(0) (0.08 g, 0.07 mmol) and palladium (II) acetate (0.19 g, 0.85 mmol) were mixed in dry toluene (25 ml) and refluxed for 72 h under argon. The solvent was removed in vacuo and the residue purified by column chromatography on silica gel (eluant:hexane). The title compound was obtained as a colorless oil (1.1 g, 30%).

reactant | Ethyl 3-bromobenzoate | 8.7 mmol, 2.0 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | hexabutyl-distannane | 10.9 mmol, 5.51 ml | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.85 mmol, 0.19 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 3-[tri-(but-1-yl)stannyl)benzoate | C(CCC)[Sn](C=1C=C(C(=O)OCC)C=CC1)(CCCC)CCCC | InChI=1S/C9H9O2.3C4H9.Sn/c1-2-11-9(10)8-6-4-3-5-7-8;3*1-3-4-2;/h3-4,6-7H,2H2,1H3;3*1,3-4H2,2H3;
